US05445762
1-(1-Adamantylcarbonyl)-1-aza-4,7,10-trioxacyclododecane
Analogously to Example 14 from 1-aza-4,7,10-trioxacyclododecane and 1-adamantylcarbonyl chloride.

reactant | 1-aza-4,7,10-trioxacyclododecane | N1CCOCCOCCOCC1 | C8H17NO3
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 1-(1-Adamantylcarbonyl)-1-aza-4,7,10-trioxacyclododecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCOCCOCC2 | C19H31NO4
